US07919506B2
Preparation 35: tert-Butyl 4-(2-((tert-butyldimethylsilyloxy)methyl)-4-(trifluoromethyl)phenyl)-4-methoxypiperidine-1-carboxylate
To a solution of tert-butyl 4-(2-((tert-butyldimethylsilyloxy)methyl)-4-(trifluoromethyl)phenyl)-4-hydroxypiperidine-1-carboxylate (526 mg; 1.07 mmol) in tetrahydrofuran (6 mL) at 0° C. was added sodium hydride (75 mg; 60% dispersion in mineral oil). The reaction was stirred for 10 minutes. Then iodomethane (0.10 mL; 1.61 mmol) was added. The reaction was stirred for 72 hours at room temperature. The reaction was quenched with water and 2N hydrochloric acid. The reaction was extracted with ethyl acetate. The organic layer was washed with water and brine. It was dried sodium sulfate and concentrated under reduced pressure. The residue was purified by 40 g RediSep column (Teledyne Isco Inc., Lincoln Nebr.) (eluted with 5-20% ethyl acetate in heptane) to give 540 mg (99.8% yield) of a colorless gum. MS (ES+): Calc: 503.6, Found: 445.4 (M−1BuH). 1H NMR (400 MHz, CDCl3) δ ppm 8.08 (s, 1H), 7.49, (dd, J=7.88, 8.30 Hz, 1H), 7.31 (d, J=8.30 Hz, 1H), 5.03 (s, 2H), 4.03 (bs, 2H), 3.16 (bs, 2H), 2.97 (s, 3H), 2.15 (d, J=12.86 Hz, 2H), 1.85 (bs, 2H), 1.48 (s, 9H), 0.98 (s, 9H), 0.14 (s, 6H).

reactant | tert-butyl 4-(2-((tert-butyldimethylsilyloxy)methyl)-4-(trifluoromethyl)phenyl)-4-hydroxypiperidine-1-carboxylate | 1.07 mmol, 526 mg | [Si](C)(C)(C(C)(C)C)OCC1=C(C=CC(=C1)C(F)(F)F)C1(CCN(CC1)C(=O)OC(C)(C)C)O | C24H38F3NO4Si
reactant | sodium hydride | 75 mg | [H-].[Na+]
reactant | iodomethane | 1.61 mmol, 0.10 mL | IC | CH3I
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | tert-Butyl 4-(2-((tert-butyldimethylsilyloxy)methyl)-4-(trifluoromethyl)phenyl)-4-methoxypiperidine-1-carboxylate | 540 mg, 99.8% yield | [Si](C)(C)(C(C)(C)C)OCC1=C(C=CC(=C1)C(F)(F)F)C1(CCN(CC1)C(=O)OC(C)(C)C)OC | C25H40F3NO4Si
